US05378690
(2R)-3-(Morpholinocarbonyl)-2-(1-naphthylmethyl)-propionic acid
221 mg (5.27 mmole) of lithium hydroxide monohydrate were added, whilst ice-cooling, to a solution of 1.28 g (2.63 mmole) of N-[2-(morpholinocarbonyl)methyl-3-(1-naphthyl)propionyl]-(S)-(-)-4-benzyl-2-oxazolidinone (prepared as described in Preparation 3) dissolved in a mixture of 40 ml of tetrahydrofuran and 10 ml of water. The mixture was stirred at the same temperature for 3 hours, after which it was freed from the solvent by evaporation under-reduced pressure. A 10% w/v aqueous solution of sodium hydroxide was added to the residue, and the mixture was extracted with methylene chloride. The aqueous layer was separated, adjusted with hydrochloric acid to a pH value of 2 and then extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure, to afford 750 mg (87%) of the title compound as white crystals, melting at 62°-66° C.

reactant | lithium hydroxide monohydrate | 5.27 mmole, 221 mg | O.[OH-].[Li+]
reactant | N-[2-(morpholinocarbonyl)methyl-3-(1-naphthyl)propionyl]-(S)-(-)-4-benzyl-2-oxazolidinone | 2.63 mmole, 1.28 g | O1CCN(CC1)C(=O)CC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)CC1=CC=CC2=CC=CC=C12 | C29H30N2O5
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | (2R)-3-(Morpholinocarbonyl)-2-(1-naphthylmethyl)-propionic acid | 750 mg, 87% | O1CCN(CC1)C(=O)C[C@H](C(=O)O)CC1=CC=CC2=CC=CC=C12 | C19H21NO4
